US04550119
4-Ethyl-2,4-dihydro-5-[4-(1H-imidazol-1-yl)phenyl]-4-methyl-3H-pyrazol-3one
A solution of 3.8 g of α-ethyl-4-(1H-imidazol-1-yl)-α-methyl-βoxobenzenepropanoic acid methyl ester, 2.0 g of hydrazine hydrate and 25 ml of ethanol was refluxed for 20 hours. The ethanol is removed and the residue is treated with ether and water. Filtration of the solid gives after recrystallization from ethyl acetate, 2.7 g of a crystalline solid, mp 86°-88° C.

reactant | α-ethyl-4-(1H-imidazol-1-yl)-α-methyl-βoxobenzenepropanoic acid methyl ester | 3.8 g | COC(C(C(C1=CC=C(C=C1)N1C=NC=C1)=O)(C)CC)=O | C16H18N2O3
reactant | hydrazine hydrate | 2.0 g | O.NN
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 4-Ethyl-2,4-dihydro-5-[4-(1H-imidazol-1-yl)phenyl]-4-methyl-3H-pyrazol-3one | C(C)C1(C(NN=C1C1=CC=C(C=C1)N1C=NC=C1)=O)C | C15H16N4O
